US05883102
(a) 2-Vinylbenzaldehyde ethylene acetal
A mixture of 2-vinylbenzaldehyde (2.9 g, 22 mmol) and trimethylsilyl chloride (11 ml) in ethylene glycol (95 ml) was stirred for 16 h, diluted with saturated sodium bicarbonate solution, extracted with ether, dried over sodium sulphate and evaporated to afford a colourless oil (2.7 g), MS (+EI) 176 (M+), 1H NMR (CDCl3) 7.57 (1H, m), 7.53 (1H, dd, J1.5, 7.5 Hz), 7.36-7.30 (2H, m), 7.14 (1H, dd, J11, 17.4 Hz), 6.04 (1H, s) 5.69 (1H, dd, J1.3, 17.4 Hz), 5.34 (1H, dd, J1.3, 11.0 Hz), 4.18-4.04 (2H, m), 3.77-3.65 (2H, m).

reactant | 2-vinylbenzaldehyde | 22 mmol, 2.9 g | C(=C)C1=C(C=O)C=CC=C1 | C9H8O
reactant | trimethylsilyl chloride | 11 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | ethylene glycol | 95 ml | C(CO)O | C2H6O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-Vinylbenzaldehyde ethylene acetal | 2.7 g | C1COC(C2=C(C=CC=C2)C=C)O1 | C11H12O2
